US07432256B2
c) 2-Fluoro-5-trifluoromethoxy-benzonitrile
To a solution of E-2-fluoro-5-trifluoromethoxy-benzaldehyde oxime (47.5 g, 213 mmol) in THF (400 ml) was added triethylamine (65.0 ml, 466 mmol). The mixture was cooled in an ice bath and trifluoroacetic anhydride (32.8 ml, 236 mmol) was added at such a rate that the temperature was kept <30° C. After 1 h at rt all volatiles were evaporated (40° C., 200 mbar). The oily residue was partitioned (ether/water), the organic phase was dried (Na2SO4) and concentrated. Distillation (24 mbar, T=80-83° C.) afforded the title compound (36.1 g, 83%) that was sufficiently pure to be used in the next step. MS: m/e=205 [M]+.

reactant | E-2-fluoro-5-trifluoromethoxy-benzaldehyde oxime | 213 mmol, 47.5 g | FC1=C(/C=N/O)C=C(C=C1)OC(F)(F)F | C8H5F4NO2
reactant | triethylamine | 466 mmol, 65.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 236 mmol, 32.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 2-Fluoro-5-trifluoromethoxy-benzonitrile | 36.1 g, 83% | FC1=C(C#N)C=C(C=C1)OC(F)(F)F | C8H3F4NO
